US08957062B2
Step C: 1-(azetidin-1-yl)-2-[4-(benzyloxy)-2-methylphenyl]ethanone
[4-(benzyloxy)-2-methylphenyl]acetic acid (0.5 g, 1.951 mmol) was dissolved in DMF (1 ml) and azetidine (0.167 g, 2.93 mmol), DIEA (0.511 ml, 2.93 mmol), and HATU (1.484 g, 3.90 mmol) added. The mixture was stirred at RT for 1 hr. The reside was purified by column chromatography using a Biotage RP C18 cartridge (30 g) using a gradient eluant of 10-100% water:acetonitrile+0.05% formic acid. to afford the title compound. LC/MS (m/z): 296 (M+H)+.

reactant | [4-(benzyloxy)-2-methylphenyl]acetic acid | 1.951 mmol, 0.5 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)CC(=O)O)C | C16H16O3
reactant | azetidine | 2.93 mmol, 0.167 g | N1CCC1 | C3H7N
reactant | DIEA | 2.93 mmol, 0.511 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 3.90 mmol, 1.484 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 1-(azetidin-1-yl)-2-[4-(benzyloxy)-2-methylphenyl]ethanone | N1(CCC1)C(CC1=C(C=C(C=C1)OCC1=CC=CC=C1)C)=O | C19H21NO2
